US06887871B2
c) 4-Chloro-5-fluoro-2-[[(1R)-3-[[(5-methylpyrazinyl)methyl]amino]-1-phenylpropyl]oxy]benzonitrile dihydrochloride
4-Chloro-5-fluoro-2-{[(1R)-3-iodo-1-phenylpropyl]oxy}benzonitrile (200 mg, 0.48 mmol), 5-methyl-2-pyrazinemethanamine (120 mg, 0.96 mmol) and triethylamine (335 μl, 2.4 mmol) were stirred in DMSO (5 ml) for 48 h. The mixture was washed with water and purified by chromatography (5% 1M ammonia-methanol/dichloromethane). The eluent was evaporated and the residue treated with 4M hydrogen chloride in dioxan (5 ml). The solvent was evaporated, azeotroped twice with toluene and triturated with ether to give the required product as a white solid.

reactant | 4-Chloro-5-fluoro-2-{[(1R)-3-iodo-1-phenylpropyl]oxy}benzonitrile | 0.48 mmol, 200 mg | ClC1=CC(=C(C#N)C=C1F)O[C@H](CCI)C1=CC=CC=C1 | C16H12ClFINO
reactant | 5-methyl-2-pyrazinemethanamine | 0.96 mmol, 120 mg | CC=1N=CC(=NC1)CN | C6H9N3
reactant | triethylamine | 2.4 mmol, 335 μl | C(C)N(CC)CC | C6H15N
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 4-Chloro-5-fluoro-2-[[(1R)-3-[[(5-methylpyrazinyl)methyl]amino]-1-phenylpropyl]oxy]benzonitrile dihydrochloride | Cl.Cl.ClC1=CC(=C(C#N)C=C1F)O[C@H](CCNCC1=NC=C(N=C1)C)C1=CC=CC=C1 | InChI=1S/C22H20ClFN4O.2ClH/c1-15-12-28-18(14-27-15)13-26-8-7-21(16-5-3-2-4-6-16)29-22-10-19(23)20(24)9-17(22)11-25;;/h2-6,9-10,12,14,21,26H,7-8,13H2,1H3;2*1H/t21-;;/m1../s1
